Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain and sycope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is ___ year old lady with a history of CAD, gout, 
hypothyroidism presents to the ___ ED with complaints of 
abdominal pain x 3 hours and syncope.  
.  
She reports she was in her USOH until she had acute onset of 
"achy" gas like abdominal pain at 18:30 today, non-radiating, 
relieved by bowel movement. She had decreased liquid intake 
earlier in the day, and was out shopping with family and she 
passed out while exiting a car. She was eased to the ground, had 
cyanotic appeaing lips. She did not immediately regain 
consciousness, EMS was called who, according to the husband, 
performed 1 round of CPR, she regained consciousness and was 
brought to the ED. There as no documentation of the 
resuscitation event, no report of medications or cardioversion 
performed.  
.  
Of note she was admitted for a syncope work-up in ___. The ddx 
at that time included a vasovagal event versus symptomatic 
bradycardia. Her heart rate was in the ___ when EMS first 
evaluated her. Her amlodipine and atenolol were stopped and she 
was discharged with PCP ___ and suggestion for outpatient 
stress test. Her thyroid function tests during this admission 
were normal.  
.  
Speaking to the husband who was present during the event, he 
tells me that she was diaphoretic immediately following the 
event, and that her face was cold.  
.  
In the ED, initial VS: 97.6 57 146/75 16. On arrival to the ED, 
she had one large, soft brown, non bloody bowel movement with 
improvement in abdominal pain. She is conversant, neurologically 
intact and reports mild residual abdominal pain. Initial labs 
significant unremarkable liver function tests, chem7 and cbc. A 
troponin <0.01. A moderate demonstrated moderate leukocytes, 
small blood and few bacteria. Her stool was guaic negative. A 
bedside ultrasound was performed to rule out AAA. The aorta 
measured 1.3 x 1.6 in its maximal dimmension. Orthostatics were 
performed and were: 160/90 laying, 150/90 standing. She was 
given a 500cc bolus in the ED. She was started on macrobid ___ 
q12hrs.  
.  
Currently, patient feels well, tells me that she forgot to take 
her pills today  
.  
REVIEW OF SYSTEMS: +rhinorrea for a few days.  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  

 
Past Medical History:
1. CARDIAC RISK FACTORS:HTN  
2. CARDIAC HISTORY: Catherization ___ years ago at ___, 
according to patient she was told it was normal and nothing was  

done.  
3. OTHER PAST MEDICAL HISTORY:  
Gout  
Hypothyroidism  
CAD  
HLD  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION EXAM:
VS - Temp 97.6- HR 55- BP 166/90 - RR 12- 97%RA  
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - Supple, no thyromegaly, no JVD, no carotid bruits  
HEART - bradycardic to ___, S1, S2 no murmurs  
LUNGS - CTAB  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses  
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, steady gait  
.
DISCHARGE EXAM:
unchanged
 
Pertinent Results:
ADMISSION LABS:
___ 07:40PM BLOOD WBC-7.0 RBC-4.39 Hgb-13.0 Hct-40.9 MCV-93 
MCH-29.6 MCHC-31.8 RDW-13.0 Plt ___
___ 07:40PM BLOOD WBC-7.0 RBC-4.39 Hgb-13.0 Hct-40.9 MCV-93 
MCH-29.6 MCHC-31.8 RDW-13.0 Plt ___
___ 07:40PM BLOOD Glucose-102* UreaN-20 Creat-0.7 Na-143 
K-4.1 Cl-106 HCO3-27 AnGap-14
___ 07:40PM BLOOD ALT-18 AST-35 AlkPhos-68 TotBili-0.3
.
DISCHARGE LABS:
___ 07:40AM BLOOD WBC-6.6 RBC-4.22 Hgb-12.9 Hct-40.2 MCV-96 
MCH-30.6 MCHC-32.0 RDW-13.4 Plt ___
___ 07:40AM BLOOD Glucose-86 UreaN-12 Creat-0.5 Na-141 
K-3.6 Cl-105 HCO3-27 AnGap-13
.
CARDIAC LABS:
___ 07:40PM BLOOD CK-MB-5 cTropnT-<0.01
___ 07:40AM BLOOD CK-MB-5 cTropnT-<0.01
___ 07:40AM BLOOD CK(CPK)-305*
.
THYROID FUNCTION:
___ 07:40AM BLOOD TSH-8.5*
___ 07:40AM BLOOD Free T4-0.84*
.
NO IMAGING PERFORMED.
.
EKG: Sinus brady at 54bmp, 1st degree AV block. Q wave in III, 
aVF, unchanged from ___SSESSMENT AND PLAN: This is ___ year old lady with a history of 
CAD, gout, hypothyroidism presents to the ___ ED with 
complaints of abdominal pain x 3 hours and syncope.  
.  
ACTIVE ISSUES:
# SYNCOPE: On admission, pt had an unchanged EKG and normal 
troponins x 2, which effectively ruled out an ACS event. She 
denied any loss of bowel of bladder function, no tongue biting 
or post-ictal state to suggest a seizure. She did not experience 
any palpitations or heart racing prior the event, which made an 
arrythemia ___. There was high suspicion that this event 
was secondary to a vasovagal episode, most likely in setting of 
needing to have a bowel movement. Pt also has a history of 
bradycardia with 1st degree AV block which may have been 
contributing factor. The most recent TTE in our system was from 
___, however the patient states that she has had one more 
recently as an outpatient with Dr. ___. Unfortunately, we 
did not have access to this record. The patient has also worn a 
Holter monitor in the past, which she reports revealled no 
events. As part of her work up, TSH was order, which returned 
elevated. Her free T4 was pending at time of discharge. The 
patient was monitored on tele during her admission, which was 
remarkable only for sinus bradycardia. We attempted to get a 
Holter monitor for the patient prior to discharge, however given 
the holiday weekend, this was not possible. We have advised the 
patient to follow up with her PCP and outpatient cardiologist 
this week and recommend another heart monitor.
.  
# ABDOMINAL PAIN: This appears to have resolved with defacation. 
The emergency department considered possible AAA and a bedside 
ultrasound demonstrated 1.3 x 1.6 cm maximal dimmension. Her 
liver funtion tests and lipase were normal. Her stool guaiac was 
negative. Pt remained asymptomatic throughout her admission and 
tolerated PO well with no constipation or diarrhea.  
.  
CHRONIC ISSUES:
# HYPERTNESION: Pt was slightly hypertensive when she arrived on 
the floor with systolic BP 160s. With her medications, her blood 
pressure decreased to 140-150s. She was continued on her 
hydrochlorothiazide. 
.  
# HYPOTHRYOID:  Pt was continued on her home dose of 
levothyroxine 100mcg daily. Her TSH was slightly elevated, and 
her total T4 was pending at time of discharge.
.  
# GOUT:  Pt was continued on her home dose of allopurinol ___ mg 
daily.
.
TRANSITIONAL ISSUES:
# We have recommended that the patient be set up with a Holter 
monitor as an outpatient to monitor for any arrythmias that may 
have contributed to her syncopal episode. We also recommend a 
repeat TTE if she has not had one recently.
.
# Her TSH was slightly elevated, with a free T4 pending at time 
of discharge. This should be followed up as an outpatient, and 
adjusted as necessary.
.
# Pt had a urine culture pending at time of discharge.  
 
Medications on Admission:
1. Rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY  
2. Allopurinol ___ mg Tablet Sig: Three (3) Tablet PO DAILY  
3. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO  
4. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
 
Discharge Medications:
1. rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. allopurinol ___ mg Tablet Sig: One (1) Tablet PO once a day.  

3. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
4. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Syncope

SECONDARY:
bradycardia
1st degree heart block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for a fainting episode. We 
kept you on a heart monitor, and did not see any irregular heart 
rhythms other than your known slow heart rate. You had a blood 
test to check for a heart attack which was normal.

We have made no changes to your medications. We recommend that 
you get a heart monitor to wear at home, however we were unable 
to set that up for you today.
 
Followup Instructions:
___